US05000869
Determination of pH to Dissolve Halogenated Glycoluril
The purpose of the present example was to determine the pH conditions required to dissolve approximately 1% 1,3,4,6-tetrachloroglycoluril in water in the presence of detergent.

reactant | 1,3,4,6-tetrachloroglycoluril | C12C(N(C(=O)N1Cl)Cl)N(C(=O)N2Cl)Cl | C4H2Cl4N4O2
solvent | water | O | H2O
product | Glycoluril | C12C(NC(=O)N1)NC(=O)N2 | C4H6N4O2
